### PR TITLE
[Merged by Bors] - chore : fix camelcase naming of PDF, CDF and PMF

### PR DESCRIPTION
**Pull request by JADekker**
Replaces occurences of Pdf, Cdf and Pmf within camelCase situations by PDF, CDF and PMF respectively.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/CondCdf.lean [hunk 1]
```diff
@@ -291,118 +291,118 @@ satisfies the properties of a cdf (monotone with limit 0 at -∞ and 1 at +∞,
 We define this function on `ℚ` and not `ℝ` because `ℚ` is countable, which allows us to prove
 properties of the form `∀ᵐ a ∂ρ.fst, ∀ q, P (pre_cdf q a)`, instead of the weaker
 `∀ q, ∀ᵐ a ∂ρ.fst, P (pre_cdf q a)`. -/
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/CondCdf.lean:293]:
```suggestion
properties of the form `∀ᵐ a ∂ρ.fst, ∀ q, P (preCDF q a)`, instead of the weaker
`∀ q, ∀ᵐ a ∂ρ.fst, P (preCDF q a)`. -/
```

File: Mathlib/Probability/Kernel/CondCdf.lean [hunk 2]
```diff
@@ -830,49 +830,49 @@ theorem tendsto_condCdf_atTop (ρ : Measure (α × ℝ)) (a : α) :
...
   exact ρ.IicSnd_apply r hs
-#align probability_theory.set_lintegral_cond_cdf_rat ProbabilityTheory.set_lintegral_condCdf_rat
+#align probability_theory.set_lintegral_cond_cdf_rat ProbabilityTheory.set_lintegral_condCDF_rat
 
-theorem set_lintegral_condCdf (ρ : Measure (α × ℝ)) [IsFiniteMeasure ρ] (x : ℝ) {s : Set α}
-    (hs : MeasurableSet s) : ∫⁻ a in s, ENNReal.ofReal (condCdf ρ a x) ∂ρ.fst = ρ (s ×ˢ Iic x) := by
+theorem set_lintegral_condCDF (ρ : Measure (α × ℝ)) [IsFiniteMeasure ρ] (x : ℝ) {s : Set α}
+    (hs : MeasurableSet s) : ∫⁻ a in s, ENNReal.ofReal (condCDF ρ a x) ∂ρ.fst = ρ (s ×ˢ Iic x) := by
   -- We have the result for `x : ℚ` thanks to `set_lintegral_cond_cdf_rat`. We use the equality
   -- `cond_cdf ρ a x = ⨅ r : {r' : ℚ // x < r'}, cond_cdf ρ a r` and a monotone convergence
```
Comment (RemyDegenne) [inline Mathlib/Probability/Kernel/CondCdf.lean:877]:
```suggestion
  -- We have the result for `x : ℚ` thanks to `set_lintegral_condCDF_rat`. We use the equality
  -- `condCDF ρ a x = ⨅ r : {r' : ℚ // x < r'}, condCDF ρ a r` and a monotone convergence
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+

**Comment by JADekker** [comment]
@RemyDegenne I'm not sure why this PR and #9561 fail to build after calling Bors, while they did build before I called Bors on them? What is particularly confusing is that the build error here seems to point me to the geometric.lean file, which doesn't even exist yet as far as this PR is concerned (as it is only introduced in #9561....)
